US08541407B2
To a suspension of methyl 4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)benzoate (0.5 g, 1.4 mmol) in methanol (20 mL) was added lithium hydroxide (0.16 g, 6.8 mmol) and water (2 mL). The reaction mixture was stirred at 70° C. for 3 days. The reaction pH was acidified by the addition of acetic acid followed by ethyl acetate. The solid was filtered off and washed with water. The solid was re-suspended in ethyl acetate, stirred, filtered off and dried under vacuum. The 4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)benzoic acid was obtained as a yellow solid (0.48 g, quantitative). M.p.>300° C.; 400 MHz 1H NMR (DMSO-d6) δ: 13.20 (br.s, 1H), 8.83 (br.s, 1H), 8.23 (d, J=4.4 Hz, 1H), 8.05-7.95 (m, 3H), 7.56 (d, J=8.0 Hz, 2H), 7.45 (t, J=4.9 Hz, 1H), 7.36 (d, J=8.0 Hz, 1H), 7.2-7.1 (m, 2H), 6.92 (dd, J=7.6, 4.4 Hz, 1H); LCMS [M+H]: 356.

reactant | methyl 4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)benzoate | 1.4 mmol, 0.5 g | N=1N=C(N2C3=C(NC4=C(C21)C=CC=C4)N=CC=C3)C3=CC=C(C(=O)OC)C=C3 | C21H15N5O2
reactant | lithium hydroxide | 6.8 mmol, 0.16 g | [OH-].[Li+]
reactant | water | 2 mL | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 20 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(9H-benzo[f]pyrido[2,3-b][1,2,4]triazolo[4,3-d][1,4]diazepin-3-yl)benzoic acid | N=1N=C(N2C3=C(NC4=C(C21)C=CC=C4)N=CC=C3)C3=CC=C(C(=O)O)C=C3 | C20H13N5O2
